US04604440
The dimer of allyl methacrylate, which was prepared according to Example 1, was added to the mixture containing 97 wt.-% N-vinylpyrrolidone and 3 wt.-% tert-butyl methacrylate in the amount of 1 wt. % on the whole mixture. The mixture was polymerized in a polypropylene mold at 60° C. for 16 h in the presence of 0.4 wt.-% azobisisobutyronitrile. The resulting gel contained, after swelling with water, 90 wt.-% water at G=0.038 MPa.

reactant | N-vinylpyrrolidone | C(=C)N1C(CCC1)=O | C6H9NO
reactant | tert-butyl methacrylate | C(C(=C)C)(=O)OC(C)(C)C | C8H14O2
reactant | polypropylene | C(C(C)[*:2])[*:1]
reactant | azobisisobutyronitrile | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | water | O | H2O
product | allyl methacrylate | C(C(=C)C)(=O)OCC=C | C7H10O2
